US06208553B1
4-Thiocyanatobenzaldehyde (8)
Under an argon atmosphere, a mixture of 4-iodobenzaldehyde (232 mg, 1.00 mmol), KSCN (95.0 mg, 1.00 mmol), CuSCN (120 mg, 1.00 mmol) and DMF (7.5 mL) was heated with stirring in an oil bath maintained at 140° C. for 12 h. After cooling, the mixture was diluted with toluene and water, and then filtered through a Celite bed. The aqueous phase was extracted with toluene, the organic fractions were combined and washed with water, dried and concentrated. The resulting dark oil was chromatographed on silica gel using centrifugal preparative chromatography to obtain off-white crystals (33 mg, 20%). mp 82-83° C.; 1H NMR (CDCl3) δ 7.63, 7.92 (AA′BB′, 2H, ArH), 10.01 (s, 1H, CHO); 13C NMR (CDCl3) δ 109.4, 129.3, 131.6, 132.9, 191.3; EI-MS obsd 163.0092, calcd exact mass 163.0092 (C8H5NOS); Anal. Calcd. for C8H5NOS: C, 58.88; H, 3.09; N, 8.58; S, 19.65; Found: C, 58.85; H, 2.99; N, 8.61; S, 19.68.

reactant | 4-iodobenzaldehyde | 1.00 mmol, 232 mg | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | KSCN | 1.00 mmol, 95.0 mg | C(#N)[S-].[K+]
reactant | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-Thiocyanatobenzaldehyde | 33 mg, 20% | S(C#N)C1=CC=C(C=O)C=C1 | C8H5NOS
